US07727988B2
1-(3-Chloro-propyl)-5-pyridin-3-yl-1H-pyrimidine-2,4-dione (Prep43)
3-Benzoyl-1-(3-Chloro-propyl)-5-pyridin-3-yl-1H-pyrimidine-2,4-dione (Prep42, 90 mg, 0.24 mmol) was dissolved in a solution of 3% NH3 in MeOH (5 mL). The mixture was stirred at room temperature over night, the solvent was then evaporated under vacuum and the residue was passed over a SCX cartridge to give 42 mg of the title compound that was used in the next step without further purification (66% yield)

reactant | 3-Benzoyl-1-(3-Chloro-propyl)-5-pyridin-3-yl-1H-pyrimidine-2,4-dione | 0.24 mmol, 90 mg | C(C1=CC=CC=C1)(=O)N1C(N(C=C(C1=O)C=1C=NC=CC1)CCCCl)=O | C19H16ClN3O3
solvent | NH3 | N | H3N
solvent | MeOH | 5 mL | CO | CH4O
product | 1-(3-Chloro-propyl)-5-pyridin-3-yl-1H-pyrimidine-2,4-dione | 42 mg, 66% yield | ClCCCN1C(NC(C(=C1)C=1C=NC=CC1)=O)=O | C12H12ClN3O2
